US07732626B2
5-bromo-2-fluoro-4-hydroxybenzaldehyde
To a solution of 2-fluoro-4-hydroxybenzaldehyde (2.16 g, 15.4 mmol) in acetic acid (70 mL) was added a solution of bromine (2.71 g, 17.0 mmol) in acetic acid (10 mL), and the mixture was stirred at 45° C. for 26 hr. The reaction mixture was concentrated under reduced pressure, brine was added to the residue, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=5:95-40:60) to give the title compound (2.74 g, yield 81%) as colorless crystals.

reactant | 2-fluoro-4-hydroxybenzaldehyde | 15.4 mmol, 2.16 g | FC1=C(C=O)C=CC(=C1)O | C7H5FO2
reactant | bromine | 17.0 mmol, 2.71 g | BrBr | Br2
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-2-fluoro-4-hydroxybenzaldehyde | 2.74 g, yield 81% | BrC=1C(=CC(=C(C=O)C1)F)O | C7H4BrFO2
